US06852727B2
Step A: 1-(4-fluorophenyl)-2-(2-fluoropyridin-4-yl)ethanone
To a solution of sodium bis(trimethylsilyl)amide (0.465 L, 1M) in TBF (765 mL) under nitrogen, cooled to 2° C., was added 2-fluoro-4-methylpyridine (25 g, 0.225 mol) and the solution stirred for 45 minutes in an ice bath. Ethyl 4-fluoro-benzoate (35 mL, 0.239 mol) was added and the reaction was stirred for 1.5 hours at RT. The reaction mixture was poured into excess aqueous 2N HCl, and the aqueous layer was made basic with 5 N NaOH and extracted with EtOAc. The organic extracts were combined, washed with brine, dried over MgSO4, filtered and concentrated under reduced pressure. The residue was dissolved in CH2Cl2 and filtered through a cotton plug. Hexanes were added and the CH2Cl2 was removed under reduced pressure until precipitation of the title compound occurred as a pale yellow solid (43.2 g).

reactant | sodium bis(trimethylsilyl)amide | 1M, 0.465 L | C[Si](C)(C)[N-][Si](C)(C)C.[Na+]
reactant | 2-fluoro-4-methylpyridine | 0.225 mol, 25 g | FC1=NC=CC(=C1)C | C6H6FN
reactant | Ethyl 4-fluoro-benzoate | 0.239 mol, 35 mL | FC1=CC=C(C(=O)OCC)C=C1 | C9H9FO2
reactant | HCl | 2N | Cl | ClH
reactant | NaOH | 5 N | [OH-].[Na+]
product | 1-(4-fluorophenyl)-2-(2-fluoropyridin-4-yl)ethanone | FC1=CC=C(C=C1)C(CC1=CC(=NC=C1)F)=O | C13H9F2NO
